US09108946B2
3-(3-Chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine (5a)
A 500 mL, 3-neck round bottom flask was charged with methyl acrylate (18.9 g, 220 mmol) and ethanol (110 mL). 3-hydrazinopyridine dihydrochloride (20.0 g, 110 mmol) was added, followed by sodium ethoxide (29.9 g, 439 mmol) and the reaction was stirred at 60° C. for 6 hours, at which point thin layer chromatography (TLC) analysis [Eluent: 10% methanol/dichloromethane] indicated that the starting material had disappeared and a major product had formed: ESIMS m/z 164 ([M+H]+). The reaction was allowed to cool to 20° C. and concentrated to afford a yellow solid. The resulting solid was charged with phosphoryl chloride (100 g, 654 mmol). The reaction was stirred at 60° C. for 3 hours, at which point a sample of the reaction mixture was diluted with water and basified with 15 wt % sodium hydroxide (NaOH) solution. The resulting solution was extracted with ethyl acetate (EtOAc) and the organic layer was analyzed by thin layer chromatography [Eluent: ethyl acetate], which indicated that the reaction was complete.

reactant | methyl acrylate | 220 mmol, 18.9 g | C(C=C)(=O)OC | C4H6O2
reactant | 3-hydrazinopyridine dihydrochloride | 110 mmol, 20.0 g | Cl.Cl.N(N)C=1C=NC=CC1
reactant | sodium ethoxide | 439 mmol, 29.9 g | [O-]CC.[Na+]
reactant | phosphoryl chloride | 654 mmol, 100 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 3-(3-Chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine | ClC1=NN(CC1)C=1C=NC=CC1 | C8H8ClN3
